US08334236B2
(3) Production of 2-(2-methoxybenzylamino)nicotinaldehyde
8.03 g (32.9 mmol) of (2-(2-methoxybenzylamino)-3-pyridinyl)methanol was dissolved in chloroform (100 mL), and 8.60 g (98.7 mmol) of manganese dioxide was added thereto. The resulting mixture was stirred overnight at 60° C. The reaction mixture was filtered, and the filtrate was concentrated. Thus, 7.40 g (yield: 93%) of the title compound was obtained as an orange-colored solid.

reactant | (2-(2-methoxybenzylamino)-3-pyridinyl)methanol | 32.9 mmol, 8.03 g | COC1=C(CNC2=NC=CC=C2CO)C=CC=C1 | C14H16N2O2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 98.7 mmol, 8.60 g | [O-2].[O-2].[Mn+4]
product | 2-(2-methoxybenzylamino)nicotinaldehyde | 7.40 g, yield: 93% | COC1=C(CNC2=C(C=O)C=CC=N2)C=CC=C1 | C14H14N2O2
